US07196100B2
4-(Piperidin-4-yloxy)-benzonitrile hydrochloride
Add dropwise acetyl chloride (2.5 mL) to methanol (5.0 mL) at 0° C. Stir the resulting solution at 0° C. for 90 min. Then add a solution of 4-(4-cyano-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (284 mg, 0.94 mmol) in methanol. Stir the resulting mixture for 3 h. Evaporate the solvent and triturate with diethyl ether to provide the title compound (216 mg, 96%).

reactant | acetyl chloride | 2.5 mL | C(C)(=O)Cl | C2H3ClO
reactant | 4-(4-cyano-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.94 mmol, 284 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C#N | C17H22N2O3
solvent | methanol | CO | CH4O
solvent | methanol | 5.0 mL | CO | CH4O
product | 4-(Piperidin-4-yloxy)-benzonitrile hydrochloride | 216 mg, 96% | Cl.N1CCC(CC1)OC1=CC=C(C#N)C=C1 | InChI=1S/C12H14N2O.ClH/c13-9-10-1-3-11(4-2-10)15-12-5-7-14-8-6-12;/h1-4,12,14H,5-8H2;1H
